US08633207B2
2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)-3-carbamoylbenzoic acid (28.5 g, 81 mmol) in MeOH (1000 mL) was treated with 2M HCl/ether (4 mL) and then heated at reflux overnight. The mixture was concentrated to 10% of the original volume and the resulting precipitate was collected by filtration and washed with a small amount of MeOH to afford methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate (17.5 g, 62%). Separately, 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-hydroxyquinazoline-8-carboxylic acid (10.5 g, 31 mmol) in MeOH (200 mL) was treated with 2M HCl/ether (1 mL) and was heated at reflux overnight. The mixture was concentrated to 10% of the original volume and the resulting precipitate was collected by filtration and washed with a small amount of MeOH to afford methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate (5.5 g, 51%). The filtrates from the two procedures above were concentrated at 65° C. and allowed to cool. The solid was collected by filtration to afford additional methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate (3 g). Purification of the filtrate by silica gel chromatography eluting with EtOAc/hexanes afforded additional methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate (4 g). The isolated solids were combined to afford methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate as a solid (30 g). LC-MS (ESI) m/z 350 (M+H+).

reactant | 2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)-3-carbamoylbenzoic acid | 81 mmol, 28.5 g | FC(C(=O)NC1=C(C(=O)O)C=CC=C1C(N)=O)(C1=NC=C(C=C1)F)F | C15H10F3N3O4
reactant | HCl ether | 2M, 4 mL | Cl.CCOCC
solvent | MeOH | 1000 mL | CO | CH4O
product | methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-oxo-3,4-dihydroquinazoline-8-carboxylate | 17.5 g, 62% | FC(C1=NC2=C(C=CC=C2C(N1)=O)C(=O)OC)(C1=NC=C(C=C1)F)F | C16H10F3N3O3
